US08703797B2
A solution of 4-isopropyl-5,8-dimethylquinolin-2-ol (1.30 g, 6.05 mmol), 700 L (1.2 eq) of POCl3 in toluene were reacted as outlined in Scheme 1 above to yield 1.00 g of 2-chloro-4-isopropyl-5,8-dimethylquinoline (71%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.34 (d, J=6.74 Hz, 6 H) 2.71 (s, 3 H) 2.87 (s, 3 H) 4.12 (quin, J=6.74 Hz, 1 H) 7.21 (d, J=7.33 Hz, 1 H) 7.32 (s, 1 H) 7.40 (d, J=7.33 Hz, 1 H).

reactant | 4-isopropyl-5,8-dimethylquinolin-2-ol | 6.05 mmol, 1.30 g | C(C)(C)C1=CC(=NC2=C(C=CC(=C12)C)C)O | C14H17NO
reactant | POCl3 | 700 L, 1.2 eq | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-isopropyl-5,8-dimethylquinoline | 1.00 g, 71% | ClC1=NC2=C(C=CC(=C2C(=C1)C(C)C)C)C | C14H16ClN
